US06410550B1
B) 5-Fluoro-1,4-dihydro-1,4-methano-naphthalene
A solution of 2,6-difluoroiodobenzene (5.0 g, 20.8 mmol) and cyclopentadiene (2.07 g, 31.3 mmol) was stirred at 0° C. in P, ether (70 mL, 40-60° C.) under N2 and treated with n-BuLi (8.74 mL, 2.5M in hexanes, 21.8 mmol) dropwise over 10 minutes. The reaction was quenched after 15 minutes by addition of aqueous 1N HCl solution and the product was extracted with hexanes (3×50 mL). The combined organic layer was washed with H2O (50 mL), saturated aqueous NaCl solution (50 mL), dried (MgSO4), filtered and evaporated. Chromatography on Silica gel provided product as an oil (1.5 g, 45%) (TLC hexanes Rf0.55). 1H NMR (400 Mhz, CDCl3) δ7.08 (ddd, J=7.0,1.0,0.8 Hz, 1H), 6.96 (ddd, J=8.5,8.3,7.0 Hz, 1H), 6.86 (br s, 2H), 6.72 (ddd, J=8.5,8.3,0.8 Hz, 1H), 4.25 (br s, 1H), 3.98 (br s, 1H), 2.36 (ddd, J=7.2,1.7,1.7 Hz, 1H), 2.30 (ddd, J=7.2,1.7,1.5 Hz, 1H), GCMS m/e 160 (M+).

reactant | 2,6-difluoroiodobenzene | 20.8 mmol, 5.0 g | FC1=C(C(=CC=C1)F)I | C6H3F2I
reactant | cyclopentadiene | 31.3 mmol, 2.07 g | C1=CC=CC1 | C5H6
reactant | n-BuLi | 21.8 mmol, 2.5M, 8.74 mL | [Li]CCCC
solvent | ether | 70 mL | CCOCC | C4H10O
product | 5-Fluoro-1,4-dihydro-1,4-methano-naphthalene | FC1=C2C3C=CC(C2=CC=C1)C3 | C11H9F
